US06656935B2
A mixture of 2-methoxycarbonyl-3-(3-chloro-4-methoxybenzylamino)-5-chloropyrazine (150 mg), 2-hydroxymethylpyrrolidine (88.6 mg), and triethylamine (0.12 ml) in tetrahydrofuran (5 ml) is stirred at room temperature for 4 hours, and the mixture is heated at 50° C. for 2 hours. To the mixture is added 2-hydroxymethylpyrrolidine (44.3 mg), and the mixture is stirred at 50° C. for one hour. After cooling, water is added to the reaction mixture, and the mixture is extracted with ethyl acetate. The extract is washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting yellow oil is purified by silica gel column chromatography (solvent; chloroform:hexane=1:1) to give (S)-2-methoxycarbonyl-3-(3-chloro-4-methoxybenzylamino)-5-(2-hydroxymethyl-1-pyrrolidinyl)-pyrazine (123 mg) as pale yellow powder, MS (m/z): 407 (MH+).

reactant | 2-methoxycarbonyl-3-(3-chloro-4-methoxybenzylamino)-5-chloropyrazine | 150 mg | COC(=O)C1=NC=C(N=C1NCC1=CC(=C(C=C1)OC)Cl)Cl | C14H13Cl2N3O3
reactant | 2-hydroxymethylpyrrolidine | 88.6 mg | OCC1NCCC1 | C5H11NO
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxymethylpyrrolidine | 44.3 mg | OCC1NCCC1 | C5H11NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (S)-2-methoxycarbonyl-3-(3-chloro-4-methoxybenzylamino)-5-(2-hydroxymethyl-1-pyrrolidinyl)-pyrazine | 123 mg | COC(=O)C1=NC=C(N=C1NCC1=CC(=C(C=C1)OC)Cl)N1[C@@H](CCC1)CO | C19H23ClN4O4
